US04957928
First 8.45 g (55 mmol) of piperidone hydrochloride monohydrate and then 22.62 g (175 mmol) of N-ethyl-N,N-diisopropylamine are added to a solution of 16.62 g (50 mmol) of 3-[2-(p-toluenesulphonyloxy)ethyl]chroman in 100 ml of dimethylformamide. The mixture is stirred for 18 hours at 80° and, after cooling, is concentrated to dryness by evaporation under reduced pressure. The residue is dissolved in diethyl ether and washed with water. The organic phase is separated off and extracted with 2N hydrochloric acid. The hydrochloric acid extracts are combined, rendered alkaline, while cold, with concentrated sodium hydroxide solution and extracted with dichloromethane. The dichloromethane phases are combined, dried over sodium sulphate and concentrated to dryness by evaporation under reduced pressure. A dark brown resin is obtained which is purified by chromatography on 350 g of silica gel (0.040-0.063 mm) using toluene/ethyl acetate (1:1) as the eluant. 1-[2-(chroman-3-yl)ethyl]-4-oxopiperidine is obtained in the form of a pale yellow oil.

reactant | piperidone hydrochloride monohydrate | 55 mmol, 8.45 g | O.Cl.N1C(CCCC1)=O
reactant | N-ethyl-N,N-diisopropylamine | 175 mmol, 22.62 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-[2-(p-toluenesulphonyloxy)ethyl]chroman | 50 mmol, 16.62 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC1COC2=CC=CC=C2C1)C | C18H20O4S
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-[2-(chroman-3-yl)ethyl]-4-oxopiperidine | O1CC(CC2=CC=CC=C12)CCN1CCC(CC1)=O | C16H21NO2
